US08735417B2
Sodium methoxide (295 mg, 5.45 mmol) was taken up in methanol (13.6 ml) and 2,4,5-trichloropyrimidine (500 mg, 2.73 mmol) was added. The mixture was stirred at room temperature overnight. The resulting mixture was concentrated under reduced pressure. The resulting residue was diluted with diethyl ether, washed with 1:1 water:saturated aqueous ammonium chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. Purification by Combiflash (0-10% diethyl ether/hexanes) afforded 280 mg (1.56 mmol, 57%) of 2,5-dichloro-4-methoxypyrimidine as a white solid.

reactant | Sodium methoxide | 5.45 mmol, 295 mg | C[O-].[Na+]
reactant | 2,4,5-trichloropyrimidine | 2.73 mmol, 500 mg | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
solvent | methanol | 13.6 ml | CO | CH4O
product | 2,5-dichloro-4-methoxypyrimidine | 1.56 mmol, 280 mg, 57% | ClC1=NC=C(C(=N1)OC)Cl | C5H4Cl2N2O
